US08084489B2
3-({5-[1-(4′-tert-Butyl-2,6-dimethyl-biphenyl-4-ylsulfanyl)-4,4,4-trifluoro-butyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester, Isomer 2
This compound is made by the general method as exemplified in Preparation 77 using 3-({5-[1-(4-bromo-3,5-dimethyl-phenylsulfanyl)-4,4,4-trifluoro-butyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester chiral Isomer 2 and 4-t-butyl-phenyl boronic acid as the starting materials. MS(ES): 592.2 [M+H]+.

reactant | 3-({5-[1-(4-bromo-3,5-dimethyl-phenylsulfanyl)-4,4,4-trifluoro-butyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | COC(CCNC(=O)C=1SC(=CC1)C(CCC(F)(F)F)SC1=CC(=C(C(=C1)C)Br)C)=O | C21H23BrF3NO3S2
reactant | 4-t-butyl-phenyl boronic acid | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | 3-({5-[1-(4′-tert-Butyl-2,6-dimethyl-biphenyl-4-ylsulfanyl)-4,4,4-trifluoro-butyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | COC(CCNC(=O)C=1SC(=CC1)C(CCC(F)(F)F)SC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(C)(C)C)C)=O | C31H36F3NO3S2
